US07018988B2
(2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-furylmethyl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 2-furylmethylamine the title compound was obtained in 92% purity by LC/MS. MS(ESI+): m/z=574.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-furylmethyl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | ClC=1C=C(CON=C2C[C@H](N(C2)C(=O)C=2C(OC(=CC2)CCCCC)=O)C(=O)NCC=2OC=CC2)C=CC1Cl | C28H29Cl2N3O6
